US07674789B2
N-{3-[8-(2,6-difluorophenyl)-2-(ethyloxy)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide
Dry ethanol (2 mL) was treated with NaH (0.0056 mg, 0.140 mmol, 60% in mineral oil) under argon and stirred for 10 min. The compound N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide (0.064 g, 0.110 mmol) was added in ethanol (2 mL). The reaction was stirred under argon for 1 h and then warmed to 70° C. for 2 h. The reaction mixture was diluted with EtOAc and the organics washed with water, brine (twice), dried over Na2SO4, filtered and evaporated. The crude residue was purified by flash chromatography on silica gel, eluting with a CH2Cl2—10% EtOAc/CH2Cl2 gradient to afford the title compound as a white solid. mp 257.3-262.5° C.; LC-MS m/z 548 (M+H)+, 2.37 min (ret. time).

reactant | NaH | 0.140 mmol, 0.0056 mg | [H-].[Na+]
reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide | 0.110 mmol, 0.064 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)C)F)=O)S(=O)(=O)C)=O | C28H22F3N5O4S
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | ethanol | 2 mL | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{3-[8-(2,6-difluorophenyl)-2-(ethyloxy)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)C)F)=O)OCC)=O | C29H24F3N5O3
